US07223788B2
N-{4-[3-(Acetylmethylamino)pyrrolidin-1-yl]phenyl}-2-(4-hydroxyphenyl)acetamide
4-Hydroxyphenylacetic acid (305 mg), 1-hydroxybenzotriazole (300 mg) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (480 mg) in DMF (5 ml) were stirred with N-[1-(4-aminophenyl)pyrrolidin-3-yl]-N-methylacetamide (470 mg) at room temperature for 3 hours. Water was then added to the mixture, which was extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, dried over sodium sulfate, concentrated and crystallized from diethyl ether. This resulted in the product with the molecular weight of 367.45 (C21H25N3O3); MS (ESI): 368 (M+H+).

reactant | 4-Hydroxyphenylacetic acid | 305 mg | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | 1-hydroxybenzotriazole | 300 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 480 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[1-(4-aminophenyl)pyrrolidin-3-yl]-N-methylacetamide | 470 mg | NC1=CC=C(C=C1)N1CC(CC1)N(C(C)=O)C | C13H19N3O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N-{4-[3-(Acetylmethylamino)pyrrolidin-1-yl]phenyl}-2-(4-hydroxyphenyl)acetamide | C(C)(=O)CNC1CN(CC1)C1=CC=C(C=C1)NC(CC1=CC=C(C=C1)O)=O | C21H25N3O3
